US06956049B1
Thioacetamide (7.6 g, 100 mmol) was added to ethanol (60 mL), and the resultant suspension was cooled to 0° C. and treated with ethyl bromopyruvate (12.5 mL, 100 mmol). The resultant solution was stirred for five minutes at 0° C. at which time the ice bath was removed and the solution was allowed to warm to ambient temperature. After 0.5 h at ambient temperature, the solution was heated to reflux. After 12 h, the solvents were removed in vacuo, and the resultant crude product was taken up in ethyl acetate (300 mL). The organic phase was washed with saturated aqueous NaHCO3 (50 mL), and the basic aqueous solution was then extracted with additionalethyl acetate (2×50 mL). The combined organic solutions were washed with brine (50 mL), dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo to afford a yellow waxy solid. The crude product was dissolved in a small amount of hot ethyl acetate, diluted with hot hexane, and the resultant solution was allowed to cool to ambient temperature, seeded with a small amount of crude product, and transferred to the freezer. After 16 h the crystalline product was collected, washed with cold 8:1 hexane:ethyl acetate, and allowed to dry under high vacuum to afford ethyl 2-methyl-1,3-thiazole-4-carboxylate (11.76 g, 69% yield) as large brownish crystals. M.p. 56–58.5° C. 1H NMR (CDCl3, 300 MHz) δ 8.06 (s, 1H), 4.43 (q, 2H), 2.78 (s, 3H), 1.42 (t, 3H). MS (EI ionization) 171 (M+).

reactant | Thioacetamide | 100 mmol, 7.6 g | C(C)(=S)N | C2H5NS
reactant | ethanol | 60 mL | C(C)O | C2H6O
reactant | ethyl bromopyruvate | 100 mmol, 12.5 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | ethyl 2-methyl-1,3-thiazole-4-carboxylate | 11.76 g, 69% yield | CC=1SC=C(N1)C(=O)OCC | C7H9NO2S
